US06313311B1
b) 6-Hydroxy-1-(1H-imidazol-4-ylmethyl)-indan-5-carbaldehyde
Boron tribromide 1.0 M solution in methylene chloride (2 ml) is added dropwise to a stirred solution of 1-(1H-imidazol-4-ylmethyl)-6-methoxyindan-5-carbaldehyde (144 mg) in methylene chloride (10 ml) at −70° C. under a nitrogen atmosphere. After the addition the mixture is allowed to warm to room temperature and is stirred for 3 hours. The mixture is then poured into cold water and is made basic with ammonium hydroxide solution. The product is extracted into methylene chloride which is washed with water, dried with sodium sulfate and evaporated to dryness. The crude product is purified by flash chromatography using methylene chloride-methanol as eluent and crystallized from ethyl acetate.

reactant | Boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | 1-(1H-imidazol-4-ylmethyl)-6-methoxyindan-5-carbaldehyde | 144 mg | N1C=NC(=C1)CC1CCC2=CC(=C(C=C12)OC)C=O | C15H16N2O2
reactant | water | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-1-(1H-imidazol-4-ylmethyl)-indan-5-carbaldehyde | OC1=C(C=C2CCC(C2=C1)CC=1N=CNC1)C=O | C14H14N2O2
